US07655669B2
3-(4-Methyl-1-piperazinyl)-5-(trifluoromethyl)-benzoic acid
A mixture consisting of 50 mL dioxane, 25 mL water and 18.75 mL 2M aqueous sodium hydroxide solution is added to 3-(4-methyl-1-piperazinyl)-5-(trifluoromethyl)-benzonitrile (2.69 g, 10 mmol) and the reaction mixture shaken for 16 hours at 95° C. After cooling, the mixture is evaporated to dryness under reduced pressure. The resulting residue is treated with water, the pH adjusted to ˜5-6 with 2M hydrochloric acid. The precipitate is filtered off and the filtrate extracted twice with n-butanol. The combined organic extracts are evaporated to yield the title compound as a solid.

reactant | dioxane | 50 mL | O1CCOCC1 | C4H8O2
reactant | sodium hydroxide | 2M, 18.75 mL | [OH-].[Na+]
reactant | 3-(4-methyl-1-piperazinyl)-5-(trifluoromethyl)-benzonitrile | 10 mmol, 2.69 g | CN1CCN(CC1)C=1C=C(C#N)C=C(C1)C(F)(F)F | C13H14F3N3
solvent | water | 25 mL | O | H2O
product | 3-(4-Methyl-1-piperazinyl)-5-(trifluoromethyl)-benzoic acid | CN1CCN(CC1)C=1C=C(C(=O)O)C=C(C1)C(F)(F)F | C13H15F3N2O2
